*Nov 19, 2012
*ECN S12-2749, Rev. B
*File Name: Si4435DDY_PS.txt, Si4435DDY_PS.lib
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product datasheet. Designers should refer to the
*appropriate datasheet of the same number for guaranteed specification
*limits.
.SUBCKT Si4435DDY D G S 
M1 3 GX S S PMOS W= 3388000u L= 0.25u 
M2 S GX S D NMOS W= 3388000u L= 4.835e-07 
R1 D 3 1.396e-02 TC=3.474e-03, 4.375e-06 
CGS GX S 6.050e-10 
CGD GX D 2.835e-11 
RG G GY 5.8
RTCV 100 S 1e6 TC=9.870e-04, 5.411e-07 
ETCV GY GX 100 200 1 
ITCV S 100 1u 
VTCV 200 S 1 
DBD D S DBD 
**************************************************************** 
.MODEL PMOS PMOS ( LEVEL = 3 TOX = 5e-8 
+ RS = 1.363e-04 KP = 1.957e-06 NSUB = 9.898e+16 
+ KAPPA = 1e-2 ETA = 4.449e-05 NFS = 1.107e+12 
+ XJ = 5e-7 LD = 0 IS = 0 TPG = -1) 
*************************************************************** 
.MODEL NMOS NMOS ( LEVEL = 3 TOX = 5e-8 
+NSUB = 1.675e+16 IS = 0 TPG = -1 ) 
**************************************************************** 
.MODEL DBD D ( 
+FC = 0.1 TT = 1.44e-08 T_MEASURED = 25 BV = 31 
+RS = 5.784e-03 N = 1.093e+00 IS = 6.505e-12 
+EG = 8.976e-01 XTI = 9.342e+00 TRS1 = 2.615e-03 
+CJO = 1.878e-10 VJ = 1.597e-01 M = 2.513e-01 ) 
.ENDS 
