*$
* TPS3839G12
*****************************************************************************
* (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: TPS3839G12
* Date: 18SEP2012
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number:
* EVM Users Guide: 
* Datasheet: SBVS193A –JUNE 2012–REVISED SEPTEMBER 2012 
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
****************************************************************************
.SUBCKT TPS3839G12_TRANS GND RESET_B VDD  
E_GAIN1         N451192 0 VALUE {1 * V(OVDRIVE_N)}
X_U27         OVDRIVE_N OVDRIVE INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
V_V5         N16859672 0 1
R_R23         N451192 RESET_CTRL_BAR  288.54k  
X_U25         RESET_CTRL_BAR RESET_CTRL INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U66         RESET_CTRL_FINAL N192225 BUF_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
D_D3         RESET_CTRL_BAR N451192 D_D1special 
C_C25         0 RESET_CTRL_BAR  1u  
R_R26         OUT1 N16873547  1  
C_C26         0 N16873547  1n  
V_V6         N127917 0 1
X_U5         VDD_INT N08542 OUT1 COMP_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABM10         N127973 0 VALUE { V(N127643)*140u+5u    }
R_R16         N146088 N147006  1  
X_U29         N16873547 VDD_GOOD COMP_OUT AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
C_C11         0 N127643  1n  
R_R11         N16929377 N127643  1  
X_U16         VDD_GOOD VDDGOOD_N INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
C_C3         0 N08542  1n  
G_ABM2I1         N127479 TIMER_RAMP VALUE { IF(V(VDD_INT) <0.9,42u,V(N16943185)
+  )    }
X_S9    0 N16820570 VDD RESET_B TPS3839_TOPLEVEL_S9 
E_ABM7         N16929377 0 VALUE { LIMIT((V(VTHR)-V(VDD_INT))/V(VTHR),0.05,0.9)
+   
+     }
X_U4         VDD_INT N194185 VDD_VALID COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
C_C15         0 N147006  1n  
E_ABM17         N146088 0 VALUE { IF(V(VDD_VALID) <0.5,0,V(N192225))  
+     }
E_ABM11         N16933045 0 VALUE { LIMIT(0.5n/(V(N16932302)+1n),2u,42u)    }
R_R6         N167703621 N08542  1  
X_S8    N16820570 0 RESET_B 0 TPS3839_TOPLEVEL_S8 
X_U26         TIMER_RAMP OVDRIVE_N INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
R_R19         N16933045 N16943185  1  
R_R2         0 GND  1  
V_V7         N127479 0 1
X_S6    COMP_OUT 0 TIMER_RAMP 0 TPS3839_TOPLEVEL_S6 
E_ABM2         N167703621 0 VALUE { ((V(OUT1)*-V(VHYS)+V(VHYS)) + V(VTHR))    }
C_C18         0 N16943185  1n  
C_C14         0 N16932302  1n  
E_GAIN2         VDD_INT 0 VALUE {1 * V(VDD)}
V_V4         N16855039 0 400m
E_ABM18         VHYS 0 VALUE { {Vhys}    }
C_C12         0 TIMER_RAMP  1n  
G_ABMII3         VDD 0 VALUE { IF(V(VDD) < 0.6, 0,150n)    }
R_R15         N127973 N16932302  1  
X_U6         N16853903 N16855039 N16858314 COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
E_ABM16         VDD_GOOD 0 VALUE { IF(V(VDD_INT) <V(VTHR) ,0,1)  
+     }
V_V3         N194185 0 599.99m
D_D4         TIMER_RAMP N127479 D_D1 
R_R24         N16853903 VDD_INT  20k TC=0,0 
R_R25         RESET_CTRL_FINAL RESET_CTRL  1k TC=0,0 
X_S10    0 N16858314 RESET_CTRL_FINAL N16859672 TPS3839_TOPLEVEL_S10 
X_U65         N147006 N16820570 BUF_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_S7    VDDGOOD_N N127917 TIMER_RAMP N127917 TPS3839_TOPLEVEL_S7 
E_ABM15         VTHR 0 VALUE { {Vth}    }
.PARAM  vth=1.1 vhys=11m
.ENDS TPS3839G12_TRANS
*$
.subckt TPS3839_TOPLEVEL_S9 1 2 3 4  
S_S9         3 4 1 2 _S9
RS_S9         1 2 1G
.MODEL         _S9 VSWITCH Roff=1G Ron=100 Voff=-0.95 Von=-0.2
.ends TPS3839_TOPLEVEL_S9
*$
.subckt TPS3839_TOPLEVEL_S8 1 2 3 4  
S_S8         3 4 1 2 _S8
RS_S8         1 2 1G
.MODEL         _S8 VSWITCH Roff=1G Ron=100 Voff=0.2 Von=0.95
.ends TPS3839_TOPLEVEL_S8
*$
.subckt TPS3839_TOPLEVEL_S6 1 2 3 4  
S_S6         3 4 1 2 _S6
RS_S6         1 2 1G
.MODEL         _S6 VSWITCH Roff=100e6 Ron=1 Voff=0.2 Von=0.8
.ends TPS3839_TOPLEVEL_S6
*$
.subckt TPS3839_TOPLEVEL_S10 1 2 3 4  
S_S10         3 4 1 2 _S10
RS_S10         1 2 1G
.MODEL         _S10 VSWITCH Roff=60e6 Ron=100 Voff=-0.8 Von=-0.2
.ends TPS3839_TOPLEVEL_S10
*$
.subckt TPS3839_TOPLEVEL_S7 1 2 3 4  
S_S7         3 4 1 2 _S7
RS_S7         1 2 1G
.MODEL         _S7 VSWITCH Roff=100e6 Ron=0.1 Voff=0.2 Von=0.8
.ends TPS3839_TOPLEVEL_S7
.model D_D1special d
+ is=1e-015
+ tt=1e-011
+ rs=0.05
+ n=0.01
*$
.model D_D1 d
+ is=1e-015
+ tt=1e-011
+ rs=0.05
+ n=0.1
*$
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN
*$
.SUBCKT COMP_BASIC_GEN INP INM Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
E_ABM Yint 0 VALUE {IF (V(INP) > 
+ V(INM), {VDD},{VSS})}
R1 Yint Y 1
C1 Y 0 1n
.ENDS COMP_BASIC_GEN
*$
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND2_BASIC_GEN
*$
.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS BUF_BASIC_GEN
*$